*Default SCR - pin order: A G K
.SUBCKT A_SCR_Default  1 2 3
Q1 2 4 1 QPSCR AREA=.67 OFF
Q2 4 2 3 QNSCR AREA=.67
Q3 5 4 1 QPSCR AREA=.33 OFF
Q4 4 5 3 QNSCR AREA=.33
RBN 2 5 40
.MODEL QNSCR NPN(TF=400NS TR=1.6US CJC=75PF CJE=175PF XTB=2.5
+ IS=1E-14 ISE=3E-9 NE=2 BF=100 BR=25 ISC=3E-9 NC=2)
.MODEL QPSCR PNP(TF=90NS TR=180NS CJC=75PF CJE=80PF XTB=2.5
+ IS=1E-14 ISE=3E-9 NE=2 BF=50 BR=25 ISC=3E-9 NC=2 RE=.03)
.ENDS A_SCR_Default



*Motorola 200V If=1.6A Igt=.2mA Vgt=.8V: A G K
.SUBCKT 2N2326   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    40MEG
RR  1 4    26.6MEG
RGK 6 5    2.25k
RG  2 6    51.9
RK  3 5    43.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.64F IBV=1U BV=200 RS=6MEG)
.MODEL ZR   D (IS=.64F IBV=1U BV=266)
.MODEL ZGK  D (IS=.64F IBV=1U BV=5)
.MODEL POUT PNP (IS=640F BF=1 CJE=1.34N)
.MODEL NOUT NPN (IS=640F BF=100 RC=.173
+ CJE=1.34N CJC=268P TF=80.1N TR=11.4U)
.ENDS 2N2326

*300V  8A
.SUBCKT 2N4171  1 2 3
*    TERMINALS:   A G K
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    600K
RR  1 4    400K
RGK 6 5    112
RG  2 6    4.61
RK  3 5    8.13M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=3.2F IBV=100U BV=300 RS=90K)
.MODEL ZR   D (IS=3.2F IBV=100U BV=400)
.MODEL ZGK  D (IS=3.2F IBV=100U BV=5)
.MODEL POUT PNP (IS=3.2P BF=1 CJE=670P)
.MODEL NOUT NPN (IS=3.2P BF=100 RC=32.5M
+ CJE=670P CJC=134P TF=179N TR=25.5U)
.ENDS 2N4171
* C106A  SCR  A G K  MCE  7-17-95
*MCE  100V  4A  pkg:TO-225AA
.SUBCKT C106A   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    22.2MEG
RR  1 4    14.8MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=100 RS=3.33MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=133)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS C106A

* C106B  SCR  A G K  MCE  7-17-95
*MCE  200V  4A  pkg:TO-225AA
.SUBCKT C106B   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    44.4MEG
RR  1 4    29.6MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=200 RS=6.67MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=266)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS C106B

* C106D  SCR  A G K  MCE  7-17-95
*MCE  400V  4A  pkg:TO-225AA
.SUBCKT C106D   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    88.9MEG
RR  1 4    59.2MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=400 RS=13.3MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=533)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS C106D

* C106F  SCR  A G K  MCE  7-17-95
*MCE  50V  4A  pkg:TO-225AA
.SUBCKT C106F   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    11.1MEG
RR  1 4    7.4MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=50 RS=1.66MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=66.6)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS C106F

* C106M  SCR  A G K  MCE  7-17-95
*MCE 600V  4A  pkg:TO-225AA
.SUBCKT C106M   1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    133MEG
RR  1 4    88.9MEG
RGK 6 5    1.12K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=900N BV=600 RS=20MEG)
.MODEL ZR   D (IS=1.6F IBV=900N BV=800)
.MODEL ZGK  D (IS=1.6F IBV=900N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=418P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=418P CJC=83.7P TF=214N TR=68U)
.ENDS C106M

*GE     A G K
.SUBCKT C149M10 1 2 3
RGATE 2 5 20
VGS 5 1 0
SCRSW 3 4 6 1 SWMOD
CSWITCH 3 4 450PF
VAS 4 1 0
FSENSE 1 6 POLY(2) VGS VAS 0 50 11
RSENSE 6 1 1
CR 6 1 10UF
.MODEL SWMOD SW RON=0.0125 ROFF=103000 VT=1 VH=0
*.MODEL SSCR VSWITCH (RON=0.0125 ROFF=103000 VON=1 VOFF=0)
.ENDS C149M10


* MCR100-3  SCR  A G K  MCE  7-17-95
*MCE MCR100-3 100V  800mA  pkg:TO-226AA
.SUBCKT MCR1003 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    20MEG
RR  1 4    13.3MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=100 RS=3MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=133)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1003

* MCR100-4  SCR  A G K  MCE  7-17-95
*MCE MCR100-4 200V  800mA  pkg:TO-226AA
.SUBCKT MCR1004 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    40MEG
RR  1 4    26.6MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=200 RS=6MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=266)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1004

* MCR100-6  SCR  A G K  MCE  7-17-95
*MCE MCR100-6 400V  800mA  pkg:TO-226AA
.SUBCKT MCR1006 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    80MEG
RR  1 4    53.3MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=400 RS=12MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=533)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1006

* MCR100-8  SCR  A G K  MCE  7-17-95
*MCE MCR100-8 600V  800mA  pkg:TO-226AA
.SUBCKT MCR1008 1 2 3
*    TERMINALS:  A G K
*  600 Volt  .8 Amp  SCR  07-17-1995
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    120MEG
RR  1 4    80MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=600 RS=18MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=800)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1008

* MCR106-2  SCR  A G K  MCE  7-17-95
*MCE MCR106-2  60V  4A  pkg:TO-225AA
.SUBCKT MCR1062 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    15MEG
RR  1 4    10MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=60 RS=2.25MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=80)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MCR1062

* MCR106-3  SCR  A G K  MCE  7-17-95
*MCE MCR106-3  100V  4A  pkg:TO-225AA
.SUBCKT MCR1063 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    25MEG
RR  1 4    16.6MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=100 RS=3.75MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=133)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MCR1063

* MCR106-4  SCR  A G K  MCE  7-17-95
*MCE MCR106-4  200V  4A  pkg:TO-225AA
.SUBCKT MCR1064 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    50MEG
RR  1 4    33.3MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=200 RS=7.5MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=266)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MCR1064

* MCR106-6  SCR  A G K  MCE  7-17-95
*MCE MCR106-6  400V  4A  pkg:TO-225AA
.SUBCKT MRC1066 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    100MEG
RR  1 4    66.6MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=400 RS=15MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=533)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MRC1066

* MCR106-8  SCR  A G K  MCE  7-17-95
*MCE MCR106-8  600V  4A  pkg:TO-225AA
.SUBCKT MRC1068 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    150MEG
RR  1 4    100MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=600 RS=22.5MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=800)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MRC1068



* MCR100-3  SCR  A G K  MCE  7-17-95
*MCE MCR100-3 100V  800mA  pkg:TO-226AA
.SUBCKT MCR1003 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    20MEG
RR  1 4    13.3MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=100 RS=3MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=133)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1003

* MCR100-4  SCR  A G K  MCE  7-17-95
*MCE MCR100-4 200V  800mA  pkg:TO-226AA
.SUBCKT MCR1004 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    40MEG
RR  1 4    26.6MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=200 RS=6MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=266)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1004

* MCR100-6  SCR  A G K  MCE  7-17-95
*MCE MCR100-6 400V  800mA  pkg:TO-226AA
.SUBCKT MCR1006 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    80MEG
RR  1 4    53.3MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=400 RS=12MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=533)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1006

* MCR100-8  SCR  A G K  MCE  7-17-95
*MCE MCR100-8 600V  800mA  pkg:TO-226AA
.SUBCKT MCR1008 1 2 3
*    TERMINALS:  A G K
*  600 Volt  .8 Amp  SCR  07-17-1995
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    120MEG
RR  1 4    80MEG
RGK 6 5    6.25K
RG  2 6    9.17
RK  3 5    81.3M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=.32F IBV=1U BV=600 RS=18MEG)
.MODEL ZR   D (IS=.32F IBV=1U BV=800)
.MODEL ZGK  D (IS=.32F IBV=1U BV=5)
.MODEL POUT PNP (IS=320F BF=1 CJE=67P)
.MODEL NOUT NPN (IS=320F BF=100 RC=.325
+ CJE=67P CJC=13.4P TF=56.6N TR=8.06U)
.ENDS MCR1008

* MCR106-2  SCR  A G K  MCE  7-17-95
*MCE MCR106-2  60V  4A  pkg:TO-225AA
.SUBCKT MCR1062 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    15MEG
RR  1 4    10MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=60 RS=2.25MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=80)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MCR1062

* MCR106-3  SCR  A G K  MCE  7-17-95
*MCE MCR106-3  100V  4A  pkg:TO-225AA
.SUBCKT MCR1063 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    25MEG
RR  1 4    16.6MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=100 RS=3.75MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=133)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MCR1063

* MCR106-4  SCR  A G K  MCE  7-17-95
*MCE MCR106-4  200V  4A  pkg:TO-225AA
.SUBCKT MCR1064 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    50MEG
RR  1 4    33.3MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=200 RS=7.5MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=266)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MCR1064

* MCR106-6  SCR  A G K  MCE  7-17-95
*MCE MCR106-6  400V  4A  pkg:TO-225AA
.SUBCKT MRC1066 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    100MEG
RR  1 4    66.6MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=400 RS=15MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=533)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MRC1066

* MCR106-8  SCR  A G K  MCE  7-17-95
*MCE MCR106-8  600V  4A  pkg:TO-225AA
.SUBCKT MRC1068 1 2 3
QP  6 4 1  POUT OFF
QN  4 6 5  NOUT OFF
RF  6 4    150MEG
RR  1 4    100MEG
RGK 6 5    6.25K
RG  2 6    46.2
RK  3 5    16.2M
DF  6 4    ZF
DR  1 4    ZR
DGK 6 5    ZGK
.MODEL ZF   D (IS=1.6F IBV=800N BV=600 RS=22.5MEG)
.MODEL ZR   D (IS=1.6F IBV=800N BV=800)
.MODEL ZGK  D (IS=1.6F IBV=800N BV=6)
.MODEL POUT PNP (IS=1.6P BF=1 CJE=60.3P)
.MODEL NOUT NPN (IS=1.6P BF=100 RC=65M
+ CJE=60.3P CJC=12P TF=126N TR=18U)
.ENDS MRC1068

* IR 1200V If=110A tq=16us: A G K
.SUBCKT S19CF 1 3 2
S1 1 5 6 2 SMOD
RG 3 4 50
VX 4 2 DC 0
VY 5 7 DC 0
DT 7 2 DMOD
RT 6 2 1
CT 6 2 10UF
BF1 2 6 I=50*I(VX)+11*I(VY)
.MODEL SMOD SW(VT=1 RON=0.0105 ROFF=100E5)
.MODEL DMOD D(IS=2.2E-15 BV=1200 TT=0 CJO=0)
.ENDS S19CF